US04616084
EXAMPLE 6 tert.-Butyl (6R, 7R)-7-benzoylamino-3-methoxy-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate
A solutin of diazomethane in ether was added to a solution of 260 mg (0.72 mmol) of tert.-butyl (6R, 7R)-7-benzoylamino-3-hydroxy-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate in 3 ml of anhydrous methylene chloride at room temperature until a yellow coloration remained. The solvent and excess diazomethane were then evaporated off in vacuo and the residue was chromatographed on 18 g of silica gel (toluene:ethyl acetate 2:3). 169 mg (62%) of the title compound were obtained as a colorless rigid foam.

reactant | diazomethane | [N+](=[N-])=C | CH2N2
reactant | tert.-butyl (6R, 7R)-7-benzoylamino-3-hydroxy-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 0.72 mmol, 260 mg | C(C1=CC=CC=C1)(=O)N[C@@H]1[C@H]2OCC(=C(N2C1=O)C(=O)OC(C)(C)C)O | C18H20N2O6
solvent | ether | CCOCC | C4H10O
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | tert.-Butyl (6R, 7R)-7-benzoylamino-3-methoxy-8-oxo-5-oxa-1-azabicyclo[4.2.0]oct-2-ene-2-carboxylate | 169 mg, 62% | C(C1=CC=CC=C1)(=O)N[C@@H]1[C@H]2OCC(=C(N2C1=O)C(=O)OC(C)(C)C)OC | C19H22N2O6
